US07897612B2
6a) Ethyl 3-[(phenylmethyl)amino]-4-pyridinecarboxylate
To a suspension of 3-aminoisonicotinic acid (0.600 g, 4.35 mmol) in ethanol (20 mL) was added concentrated sulfuric acid (0.40 mL) at ambient temperature. The solution was then refluxed overnight, cooled to ambient temperature, and neutralized to pH ˜7 using 6N aqueous sodium hydroxide. The mixture was extracted with (3×20 mL) ethyl acetate. The combined organic portions were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in methanol (20 mL) and treated with benzaldehyde (0.440 mL, 4.35 mmol). The solution was stirred at ambient temperature for 1 h and then treated with portionwise addition of sodium cyanoborohydride (0.920 g, 4.35 mmol) followed by acetic acid (0.20 mL). The resulting mixture was stirred at ambient temperature for 1 h and then concentrated in vacuo. The residue was treated with 5% aqueous sodium hydrogen carbonate and extracted with ethyl acetate (3×20 mL). The combined organic portions were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified via flash column chromatography (10% methanol in dichloromethane) to afford the desired product as a yellow oil (0.500 g, 45%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.08 (s, 1H), 7.84 (d, J=5.3 Hz, 1H), 7.69 (d, J=4.5 Hz, 1H), 7.29-7.34 (m, 5H), 4.48 (d, J=5.6 Hz, 2H), 4.14 (q, J=7.2 Hz, 2H), 1.28 (t, J=7.2 Hz, 3H). MS(ES+) m/e 257 [M+H]+.

reactant | 3-aminoisonicotinic acid | 4.35 mmol, 0.600 g | NC1=C(C(=O)O)C=CN=C1 | C6H6N2O2
reactant | sulfuric acid | 0.40 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | benzaldehyde | 4.35 mmol, 0.440 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 4.35 mmol, 0.920 g | C(#N)[BH3-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
product | Ethyl 3-[(phenylmethyl)amino]-4-pyridinecarboxylate | 0.500 g, 45% | C1(=CC=CC=C1)CNC=1C=NC=CC1C(=O)OCC | C15H16N2O2
